US05866717
N-Benzyloxycarbonyl-O-(2-methoxyethoxymethyl)ethanolamine
To a cooled (0° C.) solution of N-benzyloxycarbonyl-ethanolamine (12.03 g, 61.6 mmol) in dry dichloromethane (50 ml) was added diisopropylethylamine (32.2 ml, 184.9 mmol) and 2-methoxyethoxymethyl chloride (16.9 ml, 147.9 mmol) with stirring. The mixture was allowed to warm to room temperature then stirred for a further 3 hours. The solvent was removed under reduced pressure and the residue was taken up in ethyl acetate and washed successively with 1M hydrochloric acid, sat. aq. sodiumhydrogen carbonate and brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to porvide the title compound as a orange/yellow oil which was used without further purification. 1H--NMR; δ(CDCI3), 7.35 (5H, m), 5.45 (1H, m), 5.11 (2H, s), 4.72 (2H, s), 3.67 (4H, m), 3.55 (2H, m) and 3.38 (5H, m).

reactant | N-benzyloxycarbonyl-ethanolamine | 61.6 mmol, 12.03 g | C(C1=CC=CC=C1)OC(=O)NCCO | C10H13NO3
reactant | diisopropylethylamine | 184.9 mmol, 32.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 147.9 mmol, 16.9 ml | COCCOCCl | C4H9ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Benzyloxycarbonyl-O-(2-methoxyethoxymethyl)ethanolamine | C(C1=CC=CC=C1)OC(=O)NCCOCOCCOC | C14H21NO5
